US04243807
A mixture of 18.5 g (0.1 mole) of 4-phenoxymethylpyridine, 250 ml of methanol, 250 ml of 3 N methanolic hydrogen chloride solution and 2 g of platinum oxide is shaken at ambient temperature under a hydrogen pressure of 1 atmosphere absolute. After the take up of the calculated amount of hydrogen, the catalyst is filtered off, the filtrate is evaporated in a vacuum and the residue is recrystallized from ethanol. There are obtained 12.0 g of 4-phenoxymethylpiperidine hydrochloride (53% of theory); m.p. 218°-219° C. The free base is obtained by treating the hydrochloride with an aqueous solution of sodium hydroxide.

reactant | 4-phenoxymethylpyridine | 0.1 mole, 18.5 g | O(C1=CC=CC=C1)CC1=CC=NC=C1 | C12H11NO
reactant | hydrogen chloride | 3 N, 250 ml | Cl | ClH
catalyst | platinum oxide | 2 g | [Pt]=O
solvent | methanol | 250 ml | CO | CH4O
product | 4-phenoxymethylpiperidine hydrochloride | 12.0 g, 53% | Cl.O(C1=CC=CC=C1)CC1CCNCC1 | InChI=1S/C12H17NO.ClH/c1-2-4-12(5-3-1)14-10-11-6-8-13-9-7-11;/h1-5,11,13H,6-10H2;1H
